US08669234B2
[1-(4-Cyano-2-{5-[4-(4-{2-[4,4-difluoro-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester
Title compound was prepared according to the method employed to prepare [1-(2-{5-[4-(4-{2-[4,4-Difluoro-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (Example AB1) substituting (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester for (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (400 mg, 0.89 mmol), and (1-{2-[5-(4-ethynyl-phenyl)-1H-imidazol-2-yl]-4,4-difluoro-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester for (1-{2-[5-(4-ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester. 1H NMR (MeOH-d4, 400 MHz) δ: 7.71-7.61 (m, 4H) 7.46-7.34 (m, 4H), 5.30 (m, 1H), 5.14 (m, 1H), 4.55-4.45 (m, 2H), 4.20-3.94 (m, 5H), 3.61 (s, 6H), 3.47-3.40 (m, 2H), 2.84-2.76 (m, 3H), 2.52 (m, 1H), 1.96-1.91 (m, 2H), 0.96-0.83 (m, 12H); MS (ESI) m/z 824 [M+H]+.

reactant | [1-(2-{5-[4-(4-{2-[4,4-Difluoro-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1NC(=NC1)C1N(CC(C1)(F)F)C(C(C(C)C)NC(=O)OC)=O)=O | C42H48F2N8O6
reactant | (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.89 mmol, 400 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | (1-{2-[5-(4-ethynyl-phenyl)-1H-imidazol-2-yl]-4,4-difluoro-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CC(C1)(F)F)C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C22H24F2N4O3
reactant | (1-{2-[5-(4-ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C22H26N4O3
product | [1-(4-Cyano-2-{5-[4-(4-{2-[4,4-difluoro-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CC(C1)C#N)C=1NC(=CN1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1NC(=NC1)C1N(CC(C1)(F)F)C(C(C(C)C)NC(=O)OC)=O)=O | C43H47F2N9O6
